US08937092B2
To a stirred solution of methyl 2-(3-chloro-4-hydroxyphenyl)acetate (3.557 g, 17.73 mmol) and trimethylamine (2.5 mL, 17.73 mmol) in dichloromethane. Triflic anhydride (3 mL, 17.73 mmol) is added dropwise at 0° C. The reaction mixture was stirred for 2 h. The residue extracted in dichloromethane and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography to give methyl 2-(3-chloro-4-(trifluoromethylsulfonyl-oxy)phenyl)acetate (5.15 g, 87%).

reactant | methyl 2-(3-chloro-4-hydroxyphenyl)acetate | 17.73 mmol, 3.557 g | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
reactant | trimethylamine | 17.73 mmol, 2.5 mL | CN(C)C | C3H9N
reactant | Triflic anhydride | 17.73 mmol, 3 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 2-(3-chloro-4-(trifluoromethylsulfonyl-oxy)phenyl)acetate | 5.15 g, 87% | ClC=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)CC(=O)OC | C10H8ClF3O5S
